### PR TITLE
[Merged by Bors] - feat(PowerSeries): coefficients of series products

### PR DESCRIPTION
**Pull request by rwst**
Add three elementary lemmas about coefficients of series products.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
bors d+

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 1]
```diff
@@ -673,6 +673,40 @@ theorem coeff_prod (f : ι → PowerSeries R) (d : ℕ) (s : Finset ι) :
     Equiv.coe_toEmbedding, Finsupp.mapRange.equiv_apply, AddEquiv.coe_toEquiv_symm,
     Finsupp.mapRange_apply, AddEquiv.finsuppUnique_symm]
 
+/-- The `n`-th coefficient of the `k`-th power of a power series.
+$$
+[x^n] P(x)^k \ = \ \sum_{n_1 + n_2 + \cdots + n_k = n} a_{n_1} a_{n_2} \cdots a_{n_k}
+$$
+-/
+lemma coeff_pow (k n : ℕ) (φ : R⟦X⟧) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:681]: Certainly this does not require that `R` be commutative.

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -673,6 +673,40 @@ theorem coeff_prod (f : ι → PowerSeries R) (d : ℕ) (s : Finset ι) :
...
+
+/-- First coefficient of the product of two power series. -/
+lemma coeff_one_mul (φ ψ : R⟦X⟧) : coeff R 1 (φ * ψ) =
+    coeff R 1 φ * constantCoeff R ψ + coeff R 1 ψ * constantCoeff R φ := by
+  have : Finset.antidiagonal 1 = {(0, 1), (1, 0)} := by exact rfl
+  rw [coeff_mul, this, Finset.sum_insert, Finset.sum_singleton, coeff_zero_eq_constantCoeff,
+    mul_comm, add_comm]
+  norm_num
+
+/-- First coefficient of the `n`-th power of a power series with constant coefficient 1. -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:697]: Maybe the same one with an arbitrary constant coefficient could be useful.

**Review by AntoineChambert-Loir — APPROVED** [review]
LGTM

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 3]
```diff
@@ -673,6 +673,40 @@ theorem coeff_prod (f : ι → PowerSeries R) (d : ℕ) (s : Finset ι) :
     Equiv.coe_toEmbedding, Finsupp.mapRange.equiv_apply, AddEquiv.coe_toEquiv_symm,
     Finsupp.mapRange_apply, AddEquiv.finsuppUnique_symm]
 
+/-- The `n`-th coefficient of the `k`-th power of a power series.
+$$
+[x^n] P(x)^k \ = \ \sum_{n_1 + n_2 + \cdots + n_k = n} a_{n_1} a_{n_2} \cdots a_{n_k}
```
[the remark this answers is not in the document]
Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Removed.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 1 above)
Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:677]: It uses `coeff_prod` which itself requires commutativity for the `prod` `BigOperator`:
```
failed to synthesize
  CommMonoid R⟦X⟧
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 2 above)
Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:693]: Appears to be `n * a1^(n-1)`. I will work on this next.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:677]: The remark was about `coeff_pow`.

Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:677]: You are right in principle because a product operator in general does not require commutativity. I opened a thread at https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/commutativity.20and.20BigOperators
